US08957203B2
Preparation of 4-methyltetrahydro-2H-pyran-4-yl pyridin-2-yl carbonate
To a suspension of sodium hydride, 60% in mineral oil (207 mg, 5.17 mmol) in THF (20 mL) was added 4-methyltetrahydro-2H-pyran-4-ol (500 mg, 4.30 mmol) at 0° C. After stirring 30 min, the solution was transferred to a solution of di(pyridin-2-yl)carbonate (931 mg, 4.30 mmol) in THF (20 mL) through a cannula. The formed slurry was stirred at 0° C. for 30 min. The slurry was warmed to rt and stirred for 2 h. At room temperature, to the reaction mixture was added sat. aq. NH4Cl (1 mL) upon which brief and significant effervescence was observed. The mixture was transferred to a 250 mL separatory funnel and was diluted with Et2O (50 mL). The solution was washed with water:brine (25 mL: 25 mL). The aq. phase was extracted with EtOAc (100 mL). The combined organics were dried over MgSO4; filtered; then concentrated in vacuo. The resulting residue was dissolved in acetone and then concentrated onto Celite in vacuo. The resulting powder was subjected to SiO2 purification on the Biotage system [90 g SiO2 column, hexanes:EtOAc 90:10 to 60:40 over 8 CV] to get the product as a clear oil. 1H NMR (400 MHz, CHLOROFORM-d) δ 8.48-8.39 (m, 1H), 7.87-7.76 (m, 1H), 7.30-7.24 (m, 2H), 7.16-7.09 (m, 1H), 3.83-3.69 (m, 4H), 2.29-2.16 (m, 2H), 1.80 (ddd, J=14.3, 8.9, 5.9 Hz, 2H), 1.66 (s, 3H).

reactant | sodium hydride | [H-].[Na+]
reactant | 4-methyltetrahydro-2H-pyran-4-ol | 4.30 mmol, 500 mg | CC1(CCOCC1)O | C6H12O2
reactant | di(pyridin-2-yl)carbonate | 4.30 mmol, 931 mg | N1=C(C=CC=C1)OC(OC1=NC=CC=C1)=O | C11H8N2O3
reactant | NH4Cl | 1 mL | [NH4+].[Cl-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | 4-methyltetrahydro-2H-pyran-4-yl pyridin-2-yl carbonate | C(OC1(CCOCC1)C)(OC1=NC=CC=C1)=O | C12H15NO4
